US07220775B2
N4,N4-DIMETHYL-N6-(4-METHYLPHENYL)-N2-(2-PHENYLETHYL)-2,4,6-PYRIMIDINETRIAMINE
A mixture of N-[4-(dimethylamino)-6-(4-toluidino)-2-pyrimidinyl]-2-phenylacetamide (60 mg, 0.166 mmol), and LAH (1 mL, 1M in THF) in THF (10 mL) was refluxed for 3 h.

reactant | N-[4-(dimethylamino)-6-(4-toluidino)-2-pyrimidinyl]-2-phenylacetamide | 0.166 mmol, 60 mg | CN(C1=NC(=NC(=C1)NC1=CC=C(C=C1)C)NC(CC1=CC=CC=C1)=O)C | C21H23N5O
reactant | LAH | 1M, 1 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N4,N4-DIMETHYL-N6-(4-METHYLPHENYL)-N2-(2-PHENYLETHYL)-2,4,6-PYRIMIDINETRIAMINE | CN(C1=NC(=NC(=C1)NC1=CC=C(C=C1)C)NCCC1=CC=CC=C1)C | C21H25N5
